US05300506
To a solution of 135 g (682 mmol, 1.0 equiv.) of 1-t-butyldimethylsilyloxy-4-pentyne in 700 mL of THF at -78° C. was added 311 mL (716 mmol, 1.05 equiv.) of a 2.3M solution of n-butyllithium in hexane. The -78° C. bath was removed and the reaction temperature was monitored as it rose to 0° C. The reaction was recooled to -78° C. and 90.8 mL (716 mmol, 1.05 equiv.) of trimethylsilyl chloride was added dropwise. The reaction was then allowed to warm slowly in the cold bath for 16 hours. The reaction was diluted with 2000 mL of hexane, washed with 500 mL of saturated aqueous sodium bicarbonate, dried over anhydrous sodium sulfate and concentrated in vacuo. The resulting liquid was distilled at 71°-74° C. at 0.05 mm Hg to yield 168 g (91%) of 1-t-butyldimethylsilyloxy-5-trimethylsilyl-4-pentyne.

reactant | 1-t-butyldimethylsilyloxy-4-pentyne | 682 mmol, 135 g, 1.0 equiv. | [Si](C)(C)(C(C)(C)C)OCCCC#C | C11H22OSi
reactant | n-butyllithium | C(CCC)[Li]
reactant | trimethylsilyl chloride | 716 mmol, 90.8 mL, 1.05 equiv. | C[Si](C)(C)Cl | C3H9ClSi
solvent | THF | 700 mL | C1CCOC1 | C4H8O
solvent | hexane | CCCCCC | C6H14
solvent | hexane | 2000 mL | CCCCCC | C6H14
product | 1-t-butyldimethylsilyloxy-5-trimethylsilyl-4-pentyne | 168 g, 91% | [Si](C)(C)(C(C)(C)C)OCCCC#C[Si](C)(C)C | C14H30OSi2
